US06380218B1
2-(3-Acetyl-4-chloro-phenoxy)-N-(4-(1-hydroxy-1-methyl-ethyl)-benzyl)-nicotinamide
Prepared from 2-(3-Acetyl-4-chloro-phenoxy)-nicotinic acid and 2-(4-aminomethyl-phenyl)-propan-2-ol. MS (m/e): 456/458 (M++NH3, 100). NMR (CDCl3): 8.64 (dd, J=2,8 Hz, 1H), 8.18 (dd, J=2,5 Hz, 1H), 7.95 (m, 1H), 7.46 (m, 3H), 7.31 (m, 3H), 7.19 (m, 2H), 4.68 (d, J=6 Hz, 2H), 2.66 (s, 3H), 1.56 (s, 6H).

reactant | 2-(3-Acetyl-4-chloro-phenoxy)-nicotinic acid | C(C)(=O)C=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1Cl | C14H10ClNO4
reactant | 2-(4-aminomethyl-phenyl)-propan-2-ol | NCC1=CC=C(C=C1)C(C)(C)O | C10H15NO
reactant | NH3 | N | H3N
product | 2-(3-Acetyl-4-chloro-phenoxy)-N-(4-(1-hydroxy-1-methyl-ethyl)-benzyl)-nicotinamide | C(C)(=O)C=1C=C(OC2=C(C(=O)NCC3=CC=C(C=C3)C(C)(C)O)C=CC=N2)C=CC1Cl | C24H23ClN2O4
